US06610688B2
3,7-Dihydro-pyrrolo[2,3-d]pyrimidin-4-one (60 mg, 0.45 mmol) was reacted with 3.0 mL of phosphorus oxychloride to give 49 mg (70%) of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine as an off-white solid. 1H NMR (300 MHz, DMSO-d6) δ 12.57 (s, br, 1H, NH), 8.58 (s, 1H), 7.68 (dd, J=2.53, 3.36 Hz, 1H), and 6.59 (dd, J=1.86, 3.36 Hz, 1H). MS m/e 153 [M-1]+.

reactant | 3,7-Dihydro-pyrrolo[2,3-d]pyrimidin-4-one | 0.45 mmol, 60 mg | N1=CNC(C2=C1NC=C2)=O | C6H5N3O
reactant | phosphorus oxychloride | 3.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 49 mg, 70% | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
